US07015218B1
Potassium permanganate (13 g) and sodium hydroxide (6.6 g) were added to a solution of dimethylformamide (150 ml) and pyridine (130 ml), and 1-(4-fluorophenyl)-3-formylpyrrole (30 g) was added thereto under ice-cooling with stirring. The mixture was warmed to room temperature and stirred further for 3 h. The reaction mixture was filtrated and the filtrate was neutralized with hydrochloric acid. The precipitated crystals were recrystallized from hydrous ethanol to give 1-(4-fluorophenyl)pyrrole-3-carboxylic acid (9.2 g), melting point 204–205° C.

reactant | Potassium permanganate | 13 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sodium hydroxide | 6.6 g | [OH-].[Na+]
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
reactant | 1-(4-fluorophenyl)-3-formylpyrrole | 30 g | FC1=CC=C(C=C1)N1C=C(C=C1)C=O | C11H8FNO
solvent | pyridine | 130 ml | N1=CC=CC=C1 | C5H5N
product | 1-(4-fluorophenyl)pyrrole-3-carboxylic acid | 9.2 g | FC1=CC=C(C=C1)N1C=C(C=C1)C(=O)O | C11H8FNO2
